US08357738B2
1,4-diphenoxybenzene is prepared by the Ullmann ether synthesis as follows. 4-Phenoxyphenol (186.2 g, 1.0 mol) is dissolved in 1600 g of DMF with 300 mL toluene under nitrogen. A 50% KOH solution (112.0 g, 1.0 mol) is added followed by azeotropic removal of the water and stripping of the toluene. Bromobenzene (157.0 g, 1.0 mol) and cupric oxide (3.2 g, 0.04 mol) are then added and the reaction solution held at reflux (153° C.) for 24 hr. The DMF is then removed by stripping and the residue worked up to give 1,4-diphenoxybenzene

reactant | ether | CCOCC | C4H10O
reactant | 4-Phenoxyphenol | 1.0 mol, 186.2 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | KOH | 1.0 mol, 112.0 g | [OH-].[K+]
reactant | Bromobenzene | 1.0 mol, 157.0 g | BrC1=CC=CC=C1 | C6H5Br
solvent | DMF | 1600 g | CN(C)C=O | C3H7NO
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4-diphenoxybenzene | O(C1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C18H14O2
